2170-12-23 07:29:00 Physician Resident Progress Note
Chief Complaint: trauma, head trauma/delerium/agitation
   24 Hour Events:
   Extubated, Hct 24 stable, continues to be [**Name6 (MD) **] and RN felt unsafe
   to go to floor even w/ sitter, clonidine patch, ativan. ortho want
   ancef for 3 more days
   History obtained from Family / [**Hospital 75**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2170-12-23**] 06:00 AM
   Infusions:
   Other ICU medications:
   Dilantin - [**2170-12-22**] 10:00 AM
   Lorazepam (Ativan) - [**2170-12-22**] 06:10 PM
   Famotidine (Pepcid) - [**2170-12-23**] 12:37 AM
   Heparin Sodium (Prophylaxis) - [**2170-12-23**] 12:41 AM
   Hydromorphone (Dilaudid) - [**2170-12-23**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Psychiatric / Sleep: Agitated, Delirious, Daytime somnolence
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2170-12-23**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 108 (99 - 126) bpm
   BP: 117/100(104) {117/68(82) - 171/127(133)} mmHg
   RR: 26 (6 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 90.8 kg (admission): 96 kg
   Height: 70 Inch
             Total In:
                                                                  1,705 mL
                                                                    712 mL
   PO:
             TF:
   IVF:
                                                                  1,705 mL
                                                                    712 mL
   Blood products:
   Total out:
                                                                  1,935 mL
                                                                    640 mL
   Urine:
                                                                  1,935 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -230 mL
                                                                     72 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present), RLE
   wound c/d/i
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Absent
   Skin:  Warm, cap refill < 2 s b/l
   Neurologic: Responds to: Tactile stimuli, Movement: Non -purposeful,
   Sedated, Tone: Normal
   Labs / Radiology
   219 K/uL
   8.2 g/dL
   106 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.6 mEq/L
   8 mg/dL
   108 mEq/L
   144 mEq/L
   23.3 %
   7.2 K/uL
        [image002.jpg]
                             [**2170-12-20**]  02:29 AM
                             [**2170-12-20**]  03:17 AM
                             [**2170-12-20**]  12:42 PM
                             [**2170-12-21**]  02:01 AM
                             [**2170-12-21**]  03:46 AM
                             [**2170-12-21**]  09:28 AM
                             [**2170-12-21**]  02:59 PM
                             [**2170-12-21**]  07:54 PM
                             [**2170-12-22**]  02:07 AM
                             [**2170-12-23**]  03:45 AM
   WBC
   6.5
   7.7
   8.5
   8.8
   7.2
   Hct
   23.1
   17.1
   17.6
   22.0
   22.9
   22.7
   24.6
   23.3
   Plt
   159
   152
   151
   173
   219
   Cr
   0.8
   0.8
   0.8
   0.8
   TCO2
   24
   25
   Glucose
   148
   160
   158
   123
   106
   Other labs: PT / PTT / INR:12.5/21.4/1.1, Differential-Neuts:87.4 %,
   Lymph:7.7 %, Mono:4.3 %, Eos:0.4 %, Albumin:2.7 g/dL, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 TRAUMA, S/P
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 FRACTURE, OTHER
   open tib fib, L clavicle
 SKULL FRACTURE
   non displaced occipital bone extending into foramen magnum
 SUBARACHNOID HEMORRHAGE (SAH)
   extra-axial bleed anterior to frontal lobes
 SUBDURAL HEMORRHAGE (SDH)
   b/l frontal
   ASSESSMENT AND PLAN:  51 yo M, s/p MCC w/ resulting above discussed
   traumatic injury.
   NEUROLOGIC:
   head bleed: dilantin, SBP < 140, Neuro checks Q:4 h. pt has been
   agitated too much for even floor w/ sitter, has improved over the day
   and will be good for floor today
   Pain:  dilaudid prn
   CARDIOVASCULAR:  Continues to be tachycardic, BP stable
   PULMONARY: stable
   GI / ABD:  no issues
   NUTRITION:  regular
   RENAL : no issues
   HEMATOLOGY:  Cont to monitor Hct
   ENDOCRINE:  SSI
   ID:  Cefazolin for open tib/fib, end 11/11 per ortho
   LINES/TUBES/DRAINS: foley, 3 PIV
   WOUNDS:  open R tib fib, c/d/i
   FLUIDS:  IVF, reg diet
   CONSULTS:  primary trauma, ortho c/s, nsgy c/s
   BILLING DIAGNOSIS:
   ICU CARE:
   GLYCEMIC CONTROL:  SSI
   PROPHYLAXIS:
   DVT-  boot on left, SQH
   STRESS ULCER-  H2 Blocker
   VAP BUNDLE-
   COMMUNICATIONS:  wife [**Name (NI) **]
   ICU Consent:  signed and in chart
   CODE STATUS:  Full
   DISPOSITION:  to floor
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   20 Gauge - [**2170-12-22**] 09:00 AM
   18 Gauge - [**2170-12-22**] 10:00 AM
   22 Gauge - [**2170-12-22**] 08:03 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor